US07427613B2
Cyclopropyl-(2-o-tolyloxyethyl)amine
Synthesized according to typical procedures C and D from o-tolyloxyacetic acid and cyclopropylamine.

reactant | o-tolyloxyacetic acid | C1(=C(C=CC=C1)OCC(=O)O)C | C9H10O3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-(2-o-tolyloxyethyl)amine | C1(CC1)NCCOC1=C(C=CC=C1)C | C12H17NO
